datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[C:2]([H:12])([H:13])[O:3]1)([H:9])([H:10])[H:11].[O:4][H:14],40.1664
[C:0](#[C:1][C:2]([S:3][C:4]([H:8])([H:9])[H:10])([H:6])[H:7])[H:5].[H:11]>>[C:0](#[C:1][C:2]([S:3][H:11])([H:6])[H:7])[H:5].[C:4]([H:8])([H:9])[H:10],15.0624
[C:0](=[O:1])([H:2])[H:3].[C:4]([O:5][C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0](=[O:1])[H:3].[H:2][C:4]([O:5][C:6]([H:9])([H:10])[H:11])([H:7])[H:8],24.526608
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[c:20]1[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]1[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]1[H:30])[H:10])([H:8])[H:9],5.31368
[C:0](=[N+:1][O-:2])([H:3])[H:4].[O:5][H:6]>>[C:0](#[N+:1][O-:2])[H:4].[H:3][O:5][H:6],-4.97896
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]#[C:15][C:16]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])=[C:15][C:16]([H:20])([H:21])[H:22])[H:5],48.7018
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[S:4][H:14])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:5])([H:6])[H:7].[S:4]([H:14])[C:15]([H:16])([H:17])[H:18],38.4928
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([O:4][O:5][H:9])([H:13])[H:14])([H:6])([H:7])[H:8],113.428
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[H:8][H:9]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:9])([H:3])([H:4])[H:5].[H:8],57.1953
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])[H:16])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])([H:18])[C:7]([H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],127.361
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],175.393
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29],21.966
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:20])[H:5],37.5723
[C:0](=[C:1]=[C:2]([C:3](=[S:4])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1][C:2]([C:3]=[S:4])([H:7])[H:8])([H:5])[H:6],299.5744
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([S:11][H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:15])[H:4].[C:9](=[C:10]([S:11])[H:14])([H:12])[H:13],9.6232
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:22](=[O:23])[H:24]>>[C-:22]#[O+:23].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:10])[H:24])([H:7])([H:8])[H:9],0.0
[H:4].[N:0]([O:1])([H:2])[H:3]>>[H:2][H:4].[N:0](=[O:1])[H:3],6.52704
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:8],6.6944
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])([H:5])[H:6],5.94128
